US05714437
First, 1.0 g of 1-[4-chloro-6-fluoro-3-hydroxy-2-(2-methyl-2-propenyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione was dissolved in 15 ml of N,N-dimethylformamide, to which 0.43 g of potassium carbonate and 0.4 ml of methyl bromoacetate were added, and the mixture was stirred at room temperature for 30 minutes. After completion of the reaction, the reaction mixture was poured into water and extracted with diethyl ether. The organic layer was dried and concentrated. The residue was subjected to silica gel chromatography, which afforded 1.0 g of 1-[4-chloro-6-fluoro-3-methoxycarbonylmethyloxy-2-(2-methyl-2-propenyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione.

reactant | 1-[4-chloro-6-fluoro-3-hydroxy-2-(2-methyl-2-propenyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 1.0 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CC(=C)C)O | C16H13ClF4N2O3
reactant | potassium carbonate | 0.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.4 ml | BrCC(=O)OC | C3H5BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[4-chloro-6-fluoro-3-methoxycarbonylmethyloxy-2-(2-methyl-2-propenyl)phenyl]-3-methyl-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidine-2,6-dione | 1.0 g | ClC1=C(C(=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)CC(=C)C)OCC(=O)OC | C19H17ClF4N2O5
